US06069145
N,N-Diisopropylethylamine (11.5 ml) and 1-methyl-2-oxopiperazine (4.12 g) were added to a solution of 3,4-difluoronitrobenzene (1.82 ml) in acetonitrile (100 ml), and the mixture heated to reflux for 16 hours. Solvent was evaporated, and the residue chromatographed on silica, using as eluant a gradient increasing in polarity from 0 to 100% ethyl acetate in iso-hexane. Relevant fractions were combined and evaporated to give 3-fluoro-4-(4-methyl-3-oxopiperazin-1-yl)nitrobenzene (3.37 g).

reactant | N,N-Diisopropylethylamine | 11.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-methyl-2-oxopiperazine | 4.12 g | CN1C(CNCC1)=O | C5H10N2O
reactant | 3,4-difluoronitrobenzene | 1.82 ml | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-fluoro-4-(4-methyl-3-oxopiperazin-1-yl)nitrobenzene | 3.37 g | FC=1C=C(C=CC1N1CC(N(CC1)C)=O)[N+](=O)[O-] | C11H12FN3O3
